US08629271B2
b) tert-Butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate
A solution of tert-butyl 3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate (example 12, step a) (8.2 g) in THF (100 mL) was treated dropwise with borane THF complex (1M in THF, 91 mL) and the resultant mixture heated at 55° C. for 2 hours. Borane dimethylsulfide complex (2M in THF, 15.17 mL) was added and the resultant mixture heated at 55° C. for 2 hours. The mixture was cooled to room temperature and quenched with methanol, then the solvents were evaporated under reduced pressure. The residue was dissolved in methanol (250 mL) and the solution treated with N1,N2-dimethylethane-1,2-diamine (10 g) and the resultant mixture was heated at reflux for 6 hours. Further N1,N2-dimethylethane-1,2-diamine (3 g) was added and heated at reflux continued for 6 hours. The mixture was cooled to room temperature and the solvents evaporated under reduced pressure, the residue was purified by flash silica chromatography eluting with 1% triethylamine and 5% methanol in dichloromethane. Pure fractions were evaporated to dryness to afford the subtitled compound. Yield 7.40 g.

reactant | tert-butyl 3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | O=C1COC2(CN1)CCN(CC2)C(=O)OC(C)(C)C | C13H22N2O4
reactant | borane THF | 1M, 91 mL | B.C1CCOC1
reactant | Borane dimethylsulfide | 2M, 15.17 mL | CSC.B
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-Butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | O1CCNCC12CCN(CC2)C(=O)OC(C)(C)C | C13H24N2O3
